data/mechanism_extracts/OrgBiomolChem/10.1039_c9ob00717b.json
{"doi": "10.1039_c9ob00717b", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical vicinal aminotrifluoromethylation of alkenes using CF3SO2Na as CF3 source and acetonitrile as N-nucleophile to give β-trifluoromethylamines via Ritter-type amination.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "direct_SET", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of CF3SO2Na releases SO2 and generates CF3 radical; the β-CF3 carbon radical intermediate is further oxidized at the anode to a benzylic carbocation; cathode reduces protons to H2.", "key_intermediates": [{"name": "CF3 radical", "smiles": "[CH0](F)(F)F", "role": "reactive"}, {"name": "β-trifluoromethylated benzylic C-radical (intermediate A)", "smiles": null, "role": "reactive"}, {"name": "β-trifluoromethylated benzylic carbocation (intermediate B)", "smiles": null, "role": "reactive"}, {"name": "nitrilium ion from MeCN attack on carbocation", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3 radical (losing SO2); CF3 radical adds to the alkene giving a benzylic C-radical, which is further oxidized at the anode to a benzylic carbocation; MeCN attacks the cation and water hydrolyzes the nitrilium (Ritter-type) to the β-CF3 acetamide; cathode reduces 2H+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction suppressed (3a only trace); CF3-TEMPO adduct 4 detected by HRMS ([M+H]+ = 226.1416). Without electricity, TEMPO fully recovered and no product, showing CF3 radical is generated anodically rather than by TEMPO oxidation."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield drops to 12%; CF3-BHT adduct 5 ([M+H]+ = 289.1778) and β-CF3-benzyl-BHT adduct 6 ([M+H]+ = 393.2401) detected, supporting both CF3 radical and β-CF3 C-radical intermediates."}, {"name": "D2O (water)", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "In ultra-dry MeCN/CH2Cl2 no D-incorporated product; adding 4 equiv H2O (with CD3CN) gives D3-3a in 72% GC yield ([M+H]+ = 235.1124), proving the amide oxygen comes from water and MeCN is the N source."}, {"name": "CD3CN", "smiles": "[2H]C([2H])([2H])C#N", "purpose": "isotope_label", "observation": "D3-labeled acetamide product confirms MeCN incorporation via Ritter-type pathway."}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "isolation_of_intermediate", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "CV shows oxidation peak of CF3SO2Na at 0.89 V vs Ag/AgCl and a higher peak at 0.93 V when styrene is co-present, supporting anodic oxidation of the sulfinate rather than the alkene. Analogous CF2H reaction with CF2HSO2Na gives the β-CF2H amide (3a', 54%), consistent with the same SET/Ritter pathway. X-ray of 3j confirms regiochemistry (CF3 on terminal carbon, NHAc on benzylic carbon)."}
